US05354866
A. 2-(Hydroxymethyl)quinoline
A solution of 3.0 g of quinoline-2-carboxaldehyde in 100 ml of ethanol was treated with 750 mg of sodium borohydride and stirred at ambient temperature for 15 min. The resulting solution was neutralized with 1N HCl, concentrated in vacuo, and extracted three times with ethyl acetate. The combined organic layers were dried over Na2SO4 and concentrated to provide 2.65 g (88%) of the crude desired compound.

reactant | quinoline-2-carboxaldehyde | 3.0 g | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | sodium borohydride | 750 mg | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(Hydroxymethyl)quinoline | 2.65 g, 88% | OCC1=NC2=CC=CC=C2C=C1 | C10H9NO
